US06165944
2.06 g (51.5 mmol) of sodium hydroxide in 150 ml of methanol were added dropwise to 13.50 g (42.9 mmol) of methyl 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoate in 330 ml of methanol. The mixture was stirred at room temperature for 12 hours and a further 0.52 g (12.9 mmol) of sodium hydroxide were added. The mixture was subsequently stirred at room temperature for a further 48 hours and the solvent was then removed. The residue was taken up in 200 ml of 5% strength potassium carbonate solution and washed once with ethyl acetate and twice with methylene chloride. The aqueous phase that remained was then acidified (pH=2) using hydrochloric acid and extracted repeatedly with methylene chloride. The combined organic phases were dried and concentrated. 7.20 g (56% of theory) of 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoic acid were obtained.

reactant | sodium hydroxide | 51.5 mmol, 2.06 g | [OH-].[Na+]
reactant | methyl 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoate | 42.9 mmol, 13.50 g | ClC1=C(C(=O)OC)C=CC(=C1C1=NC(=NO1)C(C)C)Cl | C13H12Cl2N2O3
reactant | sodium hydroxide | 12.9 mmol, 0.52 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 330 ml | CO | CH4O
product | 2,4-dichloro-3-(3-i-propyl-1,2,4-oxadiazol-5-yl)benzoic acid | 7.20 g, 56% | ClC1=C(C(=O)O)C=CC(=C1C1=NC(=NO1)C(C)C)Cl | C12H10Cl2N2O3
